US09385329B2
Synthesis of 1-(3-methoxyphenyl)-1H-indazole 1
To a dry pressure tube equipped with a magnetic stir bar was added 1H-indazole (3.54 g, 30 mmol, 1.0 eq), 1-iodo-3-methoxybenzene (8.07 g, 36 mmol, 1.2 eq), CuI (0.29 g, 1.5 mmol, 0.05 eq), K2CO3 (13.37 g, 63 mmol, 2.1 eq) and trans-1,2-cyclohexanediamine (0.65 g, 6 mmol, 0.2 eq). Then the tube was taken into a glove box and solvent toluene (40 mL) was added. The mixture was bubbled with nitrogen for 5 minutes and then the tube was sealed. The tube was taken out of the glove box and the mixture was stirred in an oil bath at 105-115° C. for 3 days. The mixture was cooled down to ambient temperature, diluted with ethyl acetate, and then filtered and washed with ethyl acetate. The filtrate was concentrated and the residue was purified through column chromatography on silica gel using hexane and ethyl acetate (20:1-10:1) as eluent to obtain the desired product as a colorless liquid 6.62 g in 98% yield. 1H NMR (DMSO-d6, 400 MHz): δ 3.85 (s, 3H), 6.98 (dd, J=8.0, 2.0 Hz, 1H), 7.25-7.30 (m, 2H), 7.35 (dd, J=8.0, 1.6 Hz, 1H), 7.49 (t, J=8.0 Hz, 2H), 7.86 (d, J=8.4 Hz, 1H), 7.89 (d, J=7.6 Hz, 1H), 8.37 (s, 1H). 13C NMR (DMSO-d6, 100 MHz): δ 55.40, 107.75, 110.59, 112.42, 114.12, 121.49, 121.70, 125.10, 127.55, 130.48, 135.69, 138.13, 140.83, 160.13.

reactant | 1H-indazole | 30 mmol, 3.54 g, 1.0 eq | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | 1-iodo-3-methoxybenzene | 36 mmol, 8.07 g, 1.2 eq | IC1=CC(=CC=C1)OC | C7H7IO
reactant | K2CO3 | 63 mmol, 13.37 g, 2.1 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-cyclohexanediamine | 6 mmol, 0.65 g, 0.2 eq | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
catalyst | CuI | 1.5 mmol, 0.29 g, 0.05 eq | [Cu]I
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-methoxyphenyl)-1H-indazole | 6.62 g, 98% yield | COC=1C=C(C=CC1)N1N=CC2=CC=CC=C12 | C14H12N2O
